US05173493
Acetic anhydride (2.0 ml) was added to a solution of 10-ethyl-8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (2.15 g) in pyridine (10 ml). After being stirred at room temperature for 20 hours, the solution was evaporated in vacuo. The residue was dissolved in toluene (30 ml) and the solution was evaporated in vacuo to remove pyridine and acetic anhydride. This operation was repeated further three times to give 7-[(acetoxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-ethyl-8,9-dihydropyrido[1,2-a]indol-6(7H)-one as an amorphous powder. This crude product was used in the next reaction without further purification.

reactant | Acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 10-ethyl-8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 2.15 g | C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)C(C=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O)=O | C38H35N3O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-[(acetoxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-ethyl-8,9-dihydropyrido[1,2-a]indol-6(7H)-one | C(C)(=O)OC(C1CCC=2N(C3=CC=CC=C3C2CC)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H37N3O3
